US06670379B2
To a solution of [(R)-2-[4-(4-fluoro-benzoyl)-piperidin-1-yl]-1-(4-nitro-benzyl)-ethyl]-carbamic acid tert-butyl ester (1.41 g, 2.90 mmol) in acetic acid (11 ml), cooled to 0° C., is added an aqueous solution of calcium chloride (4 ml, 0.47M) and zinc dust (3.9 g, 59.6 mmol). The reaction mixture is stirred at 0° C. for 35 minutes and then filtered through a celite plug. The filtrate is evaporated and the residue dissolved in water and extracted into dichloromethane. The dichloromethane is evaporated and the residue disolved in water and basified with aqueous sodium bicarbonate solution and extracted into dichloromethane. The dichloromethane is dried over magnesium sulphate and evaporated to afford {(R)-1-(4-amino-benzyl)-2-[4-(4-fluoro-benzoyl)-piperidin-1-yl]-ethyl}-carbamic acid tert-butyl ester, [MH]+456.5.

reactant | [(R)-2-[4-(4-fluoro-benzoyl)-piperidin-1-yl]-1-(4-nitro-benzyl)-ethyl]-carbamic acid tert-butyl ester | 2.90 mmol, 1.41 g | C(C)(C)(C)OC(N[C@@H](CN1CCC(CC1)C(C1=CC=C(C=C1)F)=O)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C26H32FN3O5
reactant | calcium chloride | 0.47M, 4 ml | [Cl-].[Ca+2].[Cl-]
solvent | acetic acid | 11 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 59.6 mmol, 3.9 g | [Zn] | Zn
product | {(R)-1-(4-amino-benzyl)-2-[4-(4-fluoro-benzoyl)-piperidin-1-yl]-ethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CN1CCC(CC1)C(C1=CC=C(C=C1)F)=O)CC1=CC=C(C=C1)N)=O | C26H34FN3O3
